US06242600B1
(RS,S)-[4-[2-(4-Methoxybenzyl)-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid
To a suspension of (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester (0.29 g) and 2-(4-methoxybenzyl)-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butanoic acid (0.385 g) produced in Reference Example 9 in acetonitrile (30 ml) was added 1-ethyl-3-(3-di-methylaminopropyl)carbodiimide hydrochloride (0.4 g) and the suspension was stirred for 24 hours at room temperature. The reaction mixture was concentrated under reduced pressure and purified by means of a silica gel column chromatography (acetonitrile:methanol=7:3). To the produced ester derivative was added trifluoroacetic acid (6 ml) and the solution was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the concentrate was purified by means of CHP-20 column chromatography (H2O→20% acetonitrile aqueous solution). The objected fraction was concentrated and subjected to lyophilization to give the titled compound (0.35 g) as a white amorphous powdery product.

reactant | (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid tert-butyl ester | 0.29 g | C(C)(C)(C)OC(CN1C([C@@H](NCC1)CC(=O)OC)=O)=O | C13H22N2O5
reactant | 2-(4-methoxybenzyl)-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butanoic acid | 0.385 g | COC1=CC=C(CC(C(=O)O)CC(N2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | C21H25N3O4
reactant | 1-ethyl-3-(3-di-methylaminopropyl)carbodiimide hydrochloride | 0.4 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (RS,S)-[4-[2-(4-Methoxybenzyl)-4-oxo-4-[4-(pyridin-4-yl)piperazin-1-yl]butyryl]-3-methoxycarbonylmethyl-2-oxopiperazin-1-yl]acetic Acid | 0.35 g | COC1=CC=C(C[C@H](C(=O)N2C(C(N(CC2)CC(=O)O)=O)CC(=O)OC)CC(N2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | C30H37N5O8
